Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: SURGERY
 
Allergies: 
Fosamax / Lipitor
 
Attending: ___.
 
Chief Complaint:
Mechanical fall leading to R displaced rib fracture 
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Mr. ___ is a ___ y.o. male with Peripheral vascular disease; 
Muscle atrophy; Hypertension, Hyperlipidemia; Coronary  artery 
disease; Aortic stenosis; CKD  (chronic kidney disease) stage 3, 
GFR ___ ml/min; Tubular adenomad of colon; and Atherosclerosis 
with claudication of extremity on his  problem list. Pt 
presented for evaluation s/p fall 5d ago while raking leaves. He 
did not hit his head. Several hours later, he developed anterior 
left rib pain that worsened with cough, deep breathing, and 
movements. Also, after fall, his left shoulder strength became 
less than baseline. He denies any dizziness, vision changes, 
SOB, palpiations, or vertigo. 

 
Past Medical History:
HTN, HLD
 
Social History:
___
Family History:
non-contributory
 
Physical Exam:
Per ___ 0010 note
Vitals:
GEN: A&O, NAD
HEENT: No scleral icterus, mucus membranes moist
CV: RRR, No M/G/R
PULM: Clear to auscultation b/l, No W/R/R
ABD: Soft, nondistended, nontender, no rebound or guarding, 
normoactive bowel sounds, no palpable masses
DRE: normal tone, no gross or occult blood
Ext: No ___ edema, ___ warm and well perfused

 
Pertinent Results:
___ 06:27AM BLOOD WBC-7.6 RBC-3.69* Hgb-11.6* Hct-35.2* 
MCV-95 MCH-31.4 MCHC-33.0 RDW-13.7 RDWSD-48.0* Plt ___
___ 11:20PM BLOOD WBC-9.5 RBC-4.09* Hgb-12.6* Hct-38.6* 
MCV-94 MCH-30.8 MCHC-32.6 RDW-13.7 RDWSD-47.2* Plt ___
___ 11:20PM BLOOD Neuts-54.8 ___ Monos-13.0 
Eos-0.3* Baso-0.3 Im ___ AbsNeut-5.18 AbsLymp-2.96 
AbsMono-1.23* AbsEos-0.03* AbsBaso-0.03
___ 06:27AM BLOOD Plt ___
___ 11:20PM BLOOD Plt ___
___ 11:20PM BLOOD ___ PTT-27.9 ___
___ 06:27AM BLOOD Glucose-86 UreaN-22* Creat-1.3* Na-139 
K-4.7 Cl-103 HCO3-24 AnGap-12
___ 11:20PM BLOOD Glucose-94 UreaN-22* Creat-1.4* Na-137 
K-7.3* Cl-102 HCO3-22 AnGap-13
___ 06:27AM BLOOD Calcium-8.9 Phos-2.5* Mg-2.6
___ 11:20PM BLOOD Calcium-9.1 Phos-3.0 Mg-2.6
 
Brief Hospital Course:
Patient was admitted to ___ several days after a mechanical 
fall that lead to a right R displaced 8th rib fracture. Pt was 
admitted to the ___/Trauma service for aggressive pain control, 
incentive spirometer use and physical therapy. ___ recommends 
home in 0 more visit. On discharge the patient was 
hemodynamically stable, pain was controlled, and he was 
tolerating a regular diet with normal bowel movements. He is to 
follow up at the ___ clinic with a CXR prior to the appointment 
on the same day in ___ weeks. 

 

 
Medications on Admission:
1.  Atenolol 50 mg PO DAILY  
2.  Cilostazol 100 mg PO BID  
3.  Clopidogrel 75 mg PO DAILY  
4.  Gabapentin 100 mg PO DAILY  
5.  Simvastatin 20 mg PO QPM  
 
Discharge Medications:
1.  Atenolol 50 mg PO DAILY  
2.  Cilostazol 100 mg PO BID  
3.  Clopidogrel 75 mg PO DAILY  
4.  Docusate Sodium 100 mg PO BID 
RX *docusate sodium 100 mg 1 capsule(s) by mouth twice a day 
Disp #*30 Capsule Refills:*0 
5.  Gabapentin 100 mg PO DAILY  
6.  OxyCODONE (Immediate Release) 5 mg PO Q4H:PRN Pain - 
Moderate 
RX *oxycodone 5 mg 1 tablet(s) by mouth every four (4) hours 
Disp #*10 Tablet Refills:*0 
7.  OxyCODONE (Immediate Release) 5 mg PO Q4H:PRN Pain - 
Moderate  
8.  Simvastatin 20 mg PO QPM  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Mechanical fall p/w R PL 8th rib fx

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Mr. ___,

You were admitted to the ___ 
for a right R displaced 8th rib fracture. You have recovered 
well and are ready to go home. 

Your injury caused a right 8th rib fracture which can cause 
severe pain and subsequently cause you to take shallow breaths 
because of the pain.
 
* You should take your pain medication as directed to stay ahead 
of the pain otherwise you won't be able to take deep breaths. If 
the pain medication is too sedating take half the dose and 
notify your physician.
 
* Pneumonia is a complication of rib fractures.  In order to 
decrease your risk you must use your incentive spirometer 4 
times every hour while awake.  This will help expand the small 
airways in your lungs and assist in coughing up secretions that 
pool in the lungs.
 
* You will be more comfortable if you use a cough pillow to hold 
against your chest and guard your rib cage while coughing and 
deep breathing.
 
* Symptomatic relief with ice packs or heating pads for short 
periods may ease the pain.
 
* Narcotic pain medication can cause constipation therefore you 
should take a stool softener twice daily and increase your fluid 
and fiber intake if possible.
 
* Do NOT smoke
 
* If your doctor allows, non-steroidal ___ drugs 
are very effective in controlling pain ( ie, Ibuprofen, Motrin, 
Advil, Aleve, Naprosyn) but they have their own set of side 
effects so make sure your doctor approves.
 
* Return to the Emergency Room right away for any acute 
shortness of breath, increased pain or crackling sensation 
around your ribs (crepitus).

Medications- please restart all your home medications as 
prescribed. 

Diet- Resume normal diet 

Activity- as tolerated 

On your follow up clinic appointment with Dr. ___ in 2 weeks 
you will need a repeat CXR on the day of appointment . This 
appointment has been set up for you. Please follow with your 
PCP. 
 
Followup Instructions:
___